* source TP3_EP
X_X1         N06786 N07787 N00779 MCR5167
X_X2         N00779 N08106 N00833 MCR5167
X_X3         N00793 N08261 N00833 MCR5167
X_X4         N06786 N07895 N00793 MCR5167
X_X5         N06786 N08438 N00772 MCR5167
X_X6         N00772 N08587 N00833 MCR5167
I_I4         N00779 N07787 DC 0Adc AC 0Aac
+PULSE 0 1 {tn4+td} 1u 1u 500u {1/frec}
I_I1         N00833 N08106 DC 0Adc AC 0Aac
+PULSE 0 1 {tn1+td} 1u 1u 500u {1/frec}
I_I2         N00833 N08261 DC 0Adc AC 0Aac
+PULSE 0 1 {tn2+td} 1u 1u 500u {1/frec}
I_I5         N00793 N07895 DC 0Adc AC 0Aac
+PULSE 0 1 {tn5+td} 1u 1u 500u {1/frec}
I_I6         N00772 N08438 DC 0Adc AC 0Aac
+PULSE 0 1 {tn6+td} 1u 1u 500u {1/frec}
V_V_R         N00779 0 DC 0 AC 0
+SIN 0 {vmax} {frec} 0 0 0
V_V_S         N00793 0 DC 0 AC 0
+SIN 0 {vmax} {frec} 0 0 120
V_V_T         N00772 0 DC 0 AC 0
+SIN 0 {vmax} {frec} 0 0 240
I_I3         N00833 N08587 DC 0Adc AC 0Aac
+PULSE 0 1 {tn3+td} 1u 1u 500u {1/frec}
R_RL         N06786 N00833  10  
.PARAM  tn6=18.33m tn1=1.66m tn3=8.33m tn2=15m val=5mh alpha=135 frec=50
+  vmax=311 td={alpha*20m/360} tn5=5m tn4=11.66m
